US07179804B2
5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carboxylic acid amide
Wash sodium hydride (2.71 g of a 60% solution in mineral oil, 67.66 mmol) three times with hexanes, then dilute with 85 mL of DMF. To this mixture add the HCl salt of 5-amino-1H-imidazole-4-carboxylic acid amide (5.0 g, 30.75 mmol) neat in four portions. The mixture generates gas and remains cloudy and turns a slightly green color. After mixing for 40 min., add 1-chloromethyl-3,5-bis-trifluoromethyl-benzene (8.88 g, 33.83 mmol). (The mixture again generates gas and darkens). Stir at RT for 2 days, then pour through a plug of Celite and wash with DMF (50 mL) and xylenes (50 mL). Remove the DMF via azeotropic distillation with xylenes under reduced pressure (5×50 mL), and then concentrate the residue under a steady stream of nitrogen for 18 h to provide the title compound as a dark purple solid. MS (ES) 351.1, 353.1 (M+1); 1H NMR (300 MHz, CDCl3) δ 7.70 (s, 1H), 7.58 (s, 2H), 7.31 (s, 2H), 6.96 (s, 1H), 5.46 (s, 2H), 5.10 (s, 2H).

reactant | HCl | Cl | ClH
reactant | 5-amino-1H-imidazole-4-carboxylic acid amide | 30.75 mmol, 5.0 g | NC1=C(N=CN1)C(=O)N | C4H6N4O
reactant | 1-chloromethyl-3,5-bis-trifluoromethyl-benzene | 33.83 mmol, 8.88 g | ClCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5ClF6
product | 5-Amino-1-(3,5-bis-trifluoromethyl-benzyl)-1H-imidazole-4-carboxylic acid amide | NC1=C(N=CN1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N | C13H10F6N4O
